US06225330B1
2-chloroethyl-N-({4-[(9-fluoro-5,6-dihydro-4H-benzo[6,7]-cyclohepta[d][1,3]thiazol-2-yl)amino]cyclohexyl}methyl)-carbamate:
A solution of trans-N2-[4-(aminomethyl)cyclohexyl]-9-fluoro-5,6-dihydro-4H-benzo-[6,7]cyclohepta[d][1,3]thiazol-2-amine (5.00 g, 11.95 mmol), 20 ml anhydrous pyridine, and 8 ml diisopropylethylamine was stirred under N2. Then 2-chloroethyl chloroformate (1.40 ml, 13.6 mmol) was added dropwise to the stirring solution. The solution was stirred at room temperature for 2 hours and then poured into 250 ml water and extracted with 250 ml EtOAc. The extract was separated and evaporated to yield 100% (5.40 g) of the desired product as a highly viscous golden oil: 1H-NMR (CDCl3) δ 1.13 (3H, m), 1.43 (1H, m), 1.82 (2H, m), 2.06 (2H, m), 2.22 (2H, m), 2.81 (4H, m), 3.06 (2H, t, J=6.4 Hz), 3.25 (1H, m), 3.70 (3H, m), 4.31 (2H, t, J=5.7 Hz), 4.89 (2H, m), 6.82 (1H, t, J=2.8 Hz), 7.04 (1H, m), 7.70 (1H, dd, J=2.7, 10.8 Hz); 452 (ESMS, MH+).

reactant | trans-N2-[4-(aminomethyl)cyclohexyl]-9-fluoro-5,6-dihydro-4H-benzo-[6,7]cyclohepta[d][1,3]thiazol-2-amine | 11.95 mmol, 5.00 g | NC[C@@H]1CC[C@H](CC1)NC=1SC2=C(N1)C1=C(CCC2)C=CC(=C1)F | C19H24FN3S
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | diisopropylethylamine | 8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloroethyl chloroformate | 13.6 mmol, 1.40 ml | ClC(=O)OCCCl | C3H4Cl2O2
solvent | water | 250 ml | O | H2O
product | 2-chloroethyl-N-({4-[(9-fluoro-5,6-dihydro-4H-benzo[6,7]-cyclohepta[d][1,3]thiazol-2-yl)amino]cyclohexyl}methyl)-carbamate | 5.40 g, 100% | ClCCOC(NCC1CCC(CC1)NC=1SC2=C(N1)C1=C(CCC2)C=CC(=C1)F)=O | C22H27ClFN3O2S
